US07968538B2
N-(1-(3,5-Dimethoxyphenyl)ethyl)-2-nitro-5-(piperazin-1-yl)benzenamine hydrochloride
To a solution of t-butyl 4-(3-(1-(3,5-dimethoxyphenyl)ethylamino)-4-nitrophenyl)piperazine-1-carboxylate (327 mg, 0.67 mmol) in dry dichloromethane (2.0 mL) was added a saturated solution of HCl in diethyl ether (15 mL). The reaction mixture was stirred for 4 hours. The product was collected by filtration and dried in vacuo to afford the title compound (216 mg, 76% yield). 1H NMR (400 MHz, CD3OD): δ 8.03 (d, 1H), 6.55 (s, 2H), 6.36 (m, 2H), 5.95 (s, 1H), 4.67 (m, 1H), 3.73 (s, 6H), 3.49 (m, 4H), 3.29 (m, 4H), 1.60 (d, 3H); MS (ESI) m/z: Calculated for C20H27N4O4: 387.2; Observed: 387.3 (M++1) [corresponding to the free base].

reactant | t-butyl 4-(3-(1-(3,5-dimethoxyphenyl)ethylamino)-4-nitrophenyl)piperazine-1-carboxylate | 0.67 mmol, 327 mg | COC=1C=C(C=C(C1)OC)C(C)NC=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)C(=O)OC(C)(C)C | C25H34N4O6
reactant | HCl | Cl | ClH
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
product | N-(1-(3,5-Dimethoxyphenyl)ethyl)-2-nitro-5-(piperazin-1-yl)benzenamine hydrochloride | 216 mg, 76% yield | Cl.COC=1C=C(C=C(C1)OC)C(C)NC1=C(C=CC(=C1)N1CCNCC1)[N+](=O)[O-] | InChI=1S/C20H26N4O4.ClH/c1-14(15-10-17(27-2)13-18(11-15)28-3)22-19-12-16(4-5-20(19)24(25)26)23-8-6-21-7-9-23;/h4-5,10-14,21-22H,6-9H2,1-3H3;1H
